US09260442B2
tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4 yl]amino]ethyl]carbamate
To tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate 5 g (14.23 mmole) in toluene (42 mL) and triethylamine (8.33 mL) under nitrogen was added triphenyl arsine (4.39 g), 3,3-diethoxyprop-1-yne (3.24 mL) and Pddba (1.27 g). The contents were heated at 70 degrees for 24 hrs. After filtration through celite, the crude reaction was columned using hexane/ethyl acetate (0-20%) to afford the desired product. 3.9 g. Column chromatography of the resulting residue using hexane/ethyl acetate (0-30%) afforded tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]ethyl]carbamate. LCMS (ESI) 399 (M+H)

reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate | 14.23 mmole, 5 g | BrC=1C(=NC(=NC1)Cl)NCCNC(OC(C)(C)C)=O | C11H16BrClN4O2
reactant | triphenyl arsine | 4.39 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 3,3-diethoxyprop-1-yne | 3.24 mL | C(C)OC(C#C)OCC | C7H12O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 42 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 8.33 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4 yl]amino]ethyl]carbamate | ClC1=NC=C(C(=N1)NCCNC(OC(C)(C)C)=O)C#CC(OCC)OCC | C18H27ClN4O4
